US06344476B1
To a solution of NaOMe (14 g) in MeOH (1 L) was added methyl thioglycolate (22.3 mL). The mixture was stirred for 5 min, then a solution of 3-chloro-4-methyl-2-pentenenitrile (32.4 g) in MeOH (200 mL) was added and the solution was heated at the reflux temp. for 90 min. After cooling to 20° C., the mixture was concentrated under reduced pressure. The residue was dissolved in EtOAc, washed with a 1N HCl solution, dried (MgSO4), and concentrated under reduced pressure. The residue was purified by flash chromatography (EtOAc/hexane) to yield methyl 3-amino-5-isopropylthiophene-2-carboxylate (8.0 g, 16%).

reactant | NaOMe | 14 g | C[O-].[Na+]
reactant | methyl thioglycolate | 22.3 mL | C(CS)(=O)OC | C3H6O2S
reactant | 3-chloro-4-methyl-2-pentenenitrile | 32.4 g | ClC(=CC#N)C(C)C | C6H8ClN
solvent | MeOH | 1 L | CO | CH4O
solvent | MeOH | 200 mL | CO | CH4O
product | methyl 3-amino-5-isopropylthiophene-2-carboxylate | 8.0 g, 16% | NC1=C(SC(=C1)C(C)C)C(=O)OC | C9H13NO2S
